US05166188
Methyl (E)-4-{4-((1-methylamino-2-nitroethen-1-yl)amino)phenyl}-3-butenoate
1.00 g of methyl (E)-4-{4-((1-methylthio-2-nitroethen-1-yl)amino)phenyl}-3-butenoate was suspended in 5 ml of methanol, followed by the addition of 1.25 ml of a 40% solution of methylamine in methanol. The obtained mixture was stirred at a room temperature for 4 hours and distilled to remove the solvent. The residue was purified by silica gel column chromatography [solvent: dichloromethane/methanol (30:1)] to obtain 0.5 g of the title compound as a pale yellow solid (yield: 54%).

reactant | methyl (E)-4-{4-((1-methylthio-2-nitroethen-1-yl)amino)phenyl}-3-butenoate | 1.00 g | CSC(=C[N+](=O)[O-])NC1=CC=C(C=C1)/C=C/CC(=O)OC | C14H16N2O4S
reactant | methylamine | CN | CH5N
solvent | methanol | 5 ml | CO | CH4O
product | Methyl (E)-4-{4-((1-methylamino-2-nitroethen-1-yl)amino)phenyl}-3-butenoate | 0.5 g, yield: 54% | CNC(=C[N+](=O)[O-])NC1=CC=C(C=C1)/C=C/CC(=O)OC | C14H17N3O4
